US07947738B2
(25-d) [(1R,5S,6S)-6-aminomethyl-3-methylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid
[(1R,5S,6S)-6-tert-butoxycarbonylaminomethyl-3-methylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid benzenesulfonic acid (5.6 g, 15.8 mmol) was suspended in methylene chloride (50 mL). To the suspension, triethylamine (4.4 ml, 31.7 mmol) was added, and the mixture was stirred at room temperature for 1 hour. The resulting solid was collected by filtration and washed with isopropanol to obtain the compound of interest as a white solid (2.4 g, 77%).

reactant | [(1R,5S,6S)-6-tert-butoxycarbonylaminomethyl-3-methylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid benzenesulfonic acid | 15.8 mmol, 5.6 g | C1(=CC=CC=C1)S(=O)(=O)O.C(C)(C)(C)OC(=O)NC[C@]1([C@@H]2C=C(C[C@@H]2C1)C)CC(=O)O
reactant | triethylamine | 31.7 mmol, 4.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | [(1R,5S,6S)-6-aminomethyl-3-methylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid | 2.4 g, 77% | NC[C@]1([C@@H]2C=C(C[C@@H]2C1)C)CC(=O)O | C11H17NO2
